US05536725
This compound was prepared in a manner analogous to that of Step D of Example 2, using 7.6 grams (0.025 mole) of 8-(3-trifluoromethylphenoxy)-1,4-dioxaspiro[4.5]decane and 25 mL of water in 50 mL of acetic acid, yielding 4-(3-trifluoromethylphenoxy)cyclohexanone.

reactant | 8-(3-trifluoromethylphenoxy)-1,4-dioxaspiro[4.5]decane | 0.025 mole, 7.6 grams | FC(C=1C=C(OC2CCC3(OCCO3)CC2)C=CC1)(F)F | C15H17F3O3
reactant | water | 25 mL | O | H2O
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 4-(3-trifluoromethylphenoxy)cyclohexanone | FC(C=1C=C(OC2CCC(CC2)=O)C=CC1)(F)F | C13H13F3O2
